US05204019
p-heptyloxyphenyl 4-octyloxy-2,3-difluorobiphenyl-4'-ylcarboxylate
p-octyloxyphenyl 4-octyloxy-2,3-difluorobiphenyl-4'-ylcarboxylate, C 83.8° SC 151.7° SA 154.9° N 165.4° I 4-octyl-3-fluorophenyl 4-octyloxy-2,3-difluorobiphenyl-4'-ylcarboxylate, 4-octyl-2-fluorophenyl 4-octyloxy-2,3-difluorobiphenyl-4'-ylcarboxylate, C 45.2°SC 84.3° N 120.7° I 4-octyloxy-2-fluorophenyl 4-octyloxy-2,3-difluorobiphenyl-4'-ylcarboxylate, C 56.7° SC 103° N 141.6° I 4-heptyl-2-fluorophenyl heptyl-2,3-difluorophenyl-4'-yl-carboxylate, C<20° N 83.4° I trans-4-pentylcyclohexyl 4-octyloxy-2,3-difluorobiphenyl-4'-ylcarboxylate C (67.8°Sc) 81.6° SA 97.5° N 132.4° I 4-heptyl-3-fluorophenyl 4-octyloxy-2,3-difluorobiphenyl-4'-ylcarboxylate, C 44.7° SC (41°) SA 146° I 4-octyloxy-3-fluorophenyl 4-octyloxy-2,3-difluorobiphenyl-4'-ylcarboxylate, C 83.6° SC 116° SA 162.9° I.

reactant | p-octyloxyphenyl 4-octyloxy-2,3-difluorobiphenyl-4'-ylcarboxylate | C(CCCCCCC)OC1=C(C(=C(C=C1)C1=CC=C(C=C1)C(=O)OC1=CC=C(C=C1)OCCCCCCCC)F)F | C35H44F2O4
reactant | 4-octyl-3-fluorophenyl 4-octyloxy-2,3-difluorobiphenyl-4'-ylcarboxylate | C(CCCCCCC)OC1=C(C(=C(C=C1)C1=CC=C(C=C1)C(=O)OC1=CC(=C(C=C1)CCCCCCCC)F)F)F | C35H43F3O3
reactant | 4-octyl-2-fluorophenyl 4-octyloxy-2,3-difluorobiphenyl-4'-ylcarboxylate | C(CCCCCCC)OC1=C(C(=C(C=C1)C1=CC=C(C=C1)C(=O)OC1=C(C=C(C=C1)CCCCCCCC)F)F)F | C35H43F3O3
reactant | 4-octyloxy-2-fluorophenyl 4-octyloxy-2,3-difluorobiphenyl-4'-ylcarboxylate | C(CCCCCCC)OC1=C(C(=C(C=C1)C1=CC=C(C=C1)C(=O)OC1=C(C=C(C=C1)OCCCCCCCC)F)F)F | C35H43F3O4
reactant | trans-4-pentylcyclohexyl 4-octyloxy-2,3-difluorobiphenyl-4'-ylcarboxylate | C(CCCCCCC)OC1=C(C(=C(C=C1)C1=CC=C(C=C1)C(=O)O[C@@H]1CC[C@H](CC1)CCCCC)F)F | C32H44F2O3
reactant | 4-heptyl-3-fluorophenyl 4-octyloxy-2,3-difluorobiphenyl-4'-ylcarboxylate | C(CCCCCCC)OC1=C(C(=C(C=C1)C1=CC=C(C=C1)C(=O)OC1=CC(=C(C=C1)CCCCCCC)F)F)F | C34H41F3O3
reactant | 4-octyloxy-3-fluorophenyl 4-octyloxy-2,3-difluorobiphenyl-4'-ylcarboxylate | C(CCCCCCC)OC1=C(C(=C(C=C1)C1=CC=C(C=C1)C(=O)OC1=CC(=C(C=C1)OCCCCCCCC)F)F)F | C35H43F3O4
product | p-heptyloxyphenyl 4-octyloxy-2,3-difluorobiphenyl-4'-ylcarboxylate | C(CCCCCCC)OC1=C(C(=C(C=C1)C1=CC=C(C=C1)C(=O)OC1=CC=C(C=C1)OCCCCCCC)F)F | C34H42F2O4
